US03983135
A mixture of 6.35 g (0.050 mole) of 1,3-dimethyl-2-iminoimidazolidin-4-one and 7.25 g (0.050 mole) of 2,6-dimethylphenylisocyanate in 75 ml. of dry tetrahydrofuran is stirred at room temperature for two hours followed by refluxing it for thirty minutes. The reaction mixture is evaporated in vacuo to give a solid, which is crystallized from tetrahydrofuran-ether. Two more recrystallizations from the same solvent mixture gives pure product, 1-(1,3-dimethyl-4-oxo-2-imidazolidinylidene)-3-(2,6-dimethylphenyl) urea; m.p. 115.5°-118.5°C.

reactant | 1,3-dimethyl-2-iminoimidazolidin-4-one | 0.050 mole, 6.35 g | CN1C(N(C(C1)=O)C)=N | C5H9N3O
reactant | 2,6-dimethylphenylisocyanate | 0.050 mole, 7.25 g | CC1=C(C(=CC=C1)C)N=C=O | C9H9NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(1,3-dimethyl-4-oxo-2-imidazolidinylidene)-3-(2,6-dimethylphenyl) urea | CN1C(N(C(C1)=O)C)=NC(=O)NC1=C(C=CC=C1C)C | C14H18N4O2
